US05643878
a) 5(S)-[1(S)-(Boc-amino)-2-cyclohexylethyl]-dihydrofuran-2-(3H)-one
A solution of 5 g (16.37 mmol) of 5(S)-[1(S)-(Boc-amino)-2-phenylethyl]-dihydrofuran-2-(3H)-one in 50 ml of methanol is hydrogenated for 2 h at RT under normal pressure in the presence of 0.5 g of Nishimura catalyst. The catalyst is removed by filtration and the filtrate is then concentrated in a rotary evaporator and dried under a high vacuum. TLC Rf (D)=0.5; FAB-MS (M+H+)=312.

reactant | 5(S)-[1(S)-(Boc-amino)-2-phenylethyl]-dihydrofuran-2-(3H)-one | 16.37 mmol, 5 g | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=CC=C1)[C@@H]1CCC(O1)=O | C17H23NO4
solvent | methanol | 50 ml | CO | CH4O
product | 5(S)-[1(S)-(Boc-amino)-2-cyclohexylethyl]-dihydrofuran-2-(3H)-one | C(=O)(OC(C)(C)C)N[C@@H](CC1CCCCC1)[C@@H]1CCC(O1)=O | C17H29NO4
